US07705047B2
56 g of 4-(2,4-dichlorophenoxy)-3-methoxybenzonitrile are dissolved in 120 ml of dichloromethane. At 0°, a 1M solution of borontribromide in dichloromethane is added slowly in 4 portions of 6 ml each. The reaction mixture is then stirred for 2 days at room temperature. After renewed cooling to 0°, water is added carefully until no reaction is observed any more. The reaction mixture is then washed with water, a saturated aqueous solution of sodium bicarbonate and finally with brine. The organic phase is dried over magnesium sulfate and evaporated under vacuum. The residue is recrystallized from ether/hexane to yield 4-(2,4-dichlorophenoxy)-3-hydroxybenzonitrile.

reactant | 4-(2,4-dichlorophenoxy)-3-methoxybenzonitrile | 56 g | ClC1=C(OC2=C(C=C(C#N)C=C2)OC)C=CC(=C1)Cl | C14H9Cl2NO2
reactant | water | O | H2O
solvent | dichloromethane | 120 ml | ClCCl | CH2Cl2
product | 4-(2,4-dichlorophenoxy)-3-hydroxybenzonitrile | ClC1=C(OC2=C(C=C(C#N)C=C2)O)C=CC(=C1)Cl | C13H7Cl2NO2
